US08455483B2
b) 5-(2-(tert-Butyldimethylsilyloxy)ethyl)-2-fluorobenzaldehyde
To a solution of 2,2,6,6-tetramethylpiperidine (10.77 g) in THF (200 mL) at 0° C. was added over 25 minutes butyllithium (1.6M in hexanes, 48 mL). The mixture was cooled to −78° C. and a solution of tert-butyl(4-fluorophenethoxy)dimethylsilane [Aromatic Intermediate 3, step a] (9.7 g) in THF (50 mL) was added dropwise over 25 minutes. The reaction mixture was stirred at −78° C. for 90 minutes. DMF (9.3 mL) was then added dropwise over 10 minutes. The reaction mixture was stirred at 0° C. for 1 hour and then poured into ice-cold aqueous HCl (0.5 M, 500 mL). The mixture was extracted with ethyl acetate and the organic layer washed twice with water, dried, filtered and the solvent concentrated under reduced pressure to give the subtitled compound. Yield 10.00 g.

reactant | 2,2,6,6-tetramethylpiperidine | 10.77 g | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | butyllithium | 1.6M, 48 mL | C(CCC)[Li]
reactant | tert-butyl(4-fluorophenethoxy)dimethylsilane | C(C)(C)(C)[Si](C)(C)OCCC1=CC=C(C=C1)F | C14H23FOSi
reactant | DMF | 9.3 mL | CN(C)C=O | C3H7NO
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 5-(2-(tert-Butyldimethylsilyloxy)ethyl)-2-fluorobenzaldehyde | [Si](C)(C)(C(C)(C)C)OCCC=1C=CC(=C(C=O)C1)F | C15H23FO2Si
